Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
doxycycline / Amoxicillin / Penicillins / tramadol
 
Attending: ___.
 
Chief Complaint:
Chest pressure
Fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ AA woman with hx of iron-deficiency anemia 
presenting with new chest tightness and shortness of breath in 
the setting of low hematocrit. Patient reports that she has been 
feeling weak and tired with palpitations x1 month. Went to see 
PCP on ___ for "anxiety". BP at that time was 180s 
systolic. Workup performed and pt was started on amlodipine. 
Demonstrated Hgb of 7.5 with Hct of 24.4. Patient was originally 
scheduled for blood transfusion tomorrow, but developed new 
chest tightness, SOB, and dizziness overnight. Called PCP this 
morning and asked to come to ED. 

Patient has a hx of anemia since childhood but is poorly 
compliant with iron pills. She denies any recent bleeding 
events, hematemesis, blood in her urine or blood in stool. She 
does note that her menstrual period has been going on for the 
past 6 days with heavier than normal flow (she states is in the 
setting of taking OCPs as she wanted to change the timing of her 
cycle for a vacation with her husband). Patient usually has 3 
days of light flow. 
Patient refuses to have rectal exam for guaiac at this time.

In the ED, initial vitals: 99.5, 144/94, 93, 16, 100RA 
 - Exam in ED was non-focal
 - Labs notable for: 6.7 and 23 respectively
 - Imaging notable for:  negative CXR
 - Patient given:  1U pRBCs (another unit is typed and crossed)
 - Vitals prior to transfer:  98.3, 137/79, 81, 22, 100RA

On arrival to the floor, pt reports she feels a little better 
after receiving the unit of blood.  She denies any chest pain, 
but has +/- SOB with exertion.  She denies abdominal pain, 
fevers or chills.  She has a slight headache which she says she 
gets normally from time to time.  

ROS per HPI, otherwise negative. 

 
Past Medical History:
- CIN (last pap ___ -- negative)
___  Pap= LSIL
___ Colpo bx's = CIN I;  ___ HPV + (31)
___ pap= LGSIL cannot exclude HGSIL 
___ Colpo=no dysplasia; repeat pap in 6 months.
___ Pap done=neg  . F/u 6 months
- Leiomyoma (4.3 cm fibroid)
- Iron deficiency anemia (per OMR, poorly compliant with iron 
therapy)
- Fibrocystic disease of the breast

 
Social History:
___
Family History:
Family history includes Cancer - Breast in her maternal aunt, 
maternal uncle, and mother; Cancer - ___ in her maternal 
grandfather; ___ - Unknown Type in an other family member; 
___ in her mother; Other in an other family member; 
leukemia in an other family member; liver cancer in her maternal 
grandmother; prostate cancer in her paternal grandfather.

 
Physical Exam:
Admission Exam:
VITALS - 98.4, 128/82, 72, 18, 100RA
GENERAL - well-appearing female in no acute distress
HEENT - MMM, sclera anicteric
NECK - no JVD elevation
CARDIAC - RRR, no mrg, nml S1/S2
PULMONARY - CTAB
ABDOMEN - NTND, normoactive bowel sounds
EXTREMITIES - WWP, 2+ pulses distally 

Discharge Exam:
Vitals:  98.0, 108 / 72, 80, 16, 100 RA   
GENERAL - well-appearing female in no acute distress
HEENT - MMM, sclera anicteric
NECK - no JVD elevation
CARDIAC - RRR, no mrg, nml S1/S2
PULMONARY - CTAB
ABDOMEN - NTND, normoactive bowel sounds
EXTREMITIES - WWP, 2+ pulses distally 

 
Pertinent Results:
Admission Labs:

___ 02:40PM BLOOD WBC-5.5 RBC-3.46* Hgb-6.7*# Hct-23.0* 
MCV-67*# MCH-19.4*# MCHC-29.1*# RDW-19.7* RDWSD-46.9* Plt ___
___ 02:40PM BLOOD Neuts-56.6 ___ Monos-8.5 Eos-4.3 
Baso-0.7 Im ___ AbsNeut-3.12 AbsLymp-1.63 AbsMono-0.47 
AbsEos-0.24 AbsBaso-0.04
___ 02:55PM BLOOD ___ PTT-29.3 ___
___ 02:40PM BLOOD Ret Aut-1.3 Abs Ret-0.05
___ 02:40PM BLOOD Glucose-89 UreaN-10 Creat-0.8 Na-140 
K-3.4 Cl-104 HCO3-28 AnGap-11
___ 02:40PM BLOOD ALT-6 AST-13 LD(LDH)-188 AlkPhos-61 
TotBili-0.2 DirBili-<0.2 IndBili-0.2
___ 02:40PM BLOOD Albumin-3.7 Iron-16*
___ 02:40PM BLOOD calTIBC-452 VitB12-543 Hapto-148 
Ferritn-2.8* TRF-348

Discharge Labs:

___ 03:10PM BLOOD WBC-6.5 RBC-3.83* Hgb-7.9* Hct-26.3* 
MCV-69* MCH-20.6* MCHC-30.0* RDW-22.0* RDWSD-52.7* Plt ___
___ 12:26AM BLOOD Neuts-61.0 ___ Monos-8.3 Eos-2.5 
Baso-0.6 Im ___ AbsNeut-4.11 AbsLymp-1.84 AbsMono-0.56 
AbsEos-0.17 AbsBaso-0.04
___ 06:30AM BLOOD ___ PTT-32.2 ___
___ 06:30AM BLOOD Glucose-83 UreaN-11 Creat-0.6 Na-138 
K-3.5 Cl-102 HCO3-28 AnGap-12
___ 06:30AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 06:30AM BLOOD Calcium-8.9 Phos-3.7 Mg-1.9

EKG:

Sinus rhythm. Delayed precordial R wave progression. Left 
ventricular 
hypertrophy with secondary repolarization abnormalities.  

CXR: 
  
IMPRESSION:  
  
No acute cardiopulmonary process.  No significant interval 
change. 

Pelvic Ultrasound:
FINDINGS:  
  
The uterus is retroverted and and enlarged measuring 11.0 x 5.1 
x 6.8 cm. The endometrium contains a small amount of fluid with 
irregular projections along the surface of the endometrial 
cavity which may represent a small amount of clot or polypoid 
mural projections. Multiple discrete hypoechoic structures 
within the uterus may represent fibroids and possibly 
adenomyosis.  The largest fibroid is located at the fundus and 
measures 3.3 x 1.9 x 2.1 cm. 
 The ovaries are normal.  A right adnexal cyst measures 2.5 x 
1.3 x 1.6 cm.  There is no free fluid. 

IMPRESSION: 
1. Enlarged uterus with multiple fibroids or possibly 
adenomyosis/adenomyomas. 
2. Small amount of endometrial fluid with polypoid mural 
projections or clot within the cavity.  Options for further 
evaluation would include sonohysterogram when not menstruating, 
to allow for possibliity of intracavitary debris or clots to 
resolve, or a referral to gynecology for consideration of 
hysteroscopy. 
3. Right adnexal cyst. 
  
RECOMMENDATION(S):  Sonohysterogram after completion of menses 
or a referral to gynecology for consideration of hysteroscopy, 
to exclude endometrial polyp, hyperplasia or neoplasm. 
 
Brief Hospital Course:
___ with h/o iron deficiency anemia, heavy menses, on chronic 
oral iron who presents with 3 days of chest pressure and 
shortness of breath in the setting of decreasing hemoglobin and 
a normal CXR and EKG.

#Iron-deficiency anemia: likely in the setting of heavy menses. 
Patient initially presented with chest tightness, which resolved 
on admission. Chest tightness was felt to be due to symptomatic 
anemia vs anxiety which patient endorsed. CXR was negative for 
cardiopulmonary abnormality, EKG without ischemic change, 
troponins and CKMB negative. H/H was notable for Hgb 6.7 for 
which she received 1U pRBC with appropriate increase. Patient 
reported heavy menses a few days prior to admission which is 
typical for her but worsened this month. She had pelvic 
ultrasound which was pending at the time of discharge (see OMR 
notes for communication of findings). Given a history of iron 
deficiency anemia, she was transfused IV ferric gluconate 125 mg 
x2 and initiated on po ferrous sulfate at discharge. Per 
patient, she had been planned for outpatient hematology follow 
up for ongoing IV Fe in the outpatient setting; this was 
arranged for after discharge. Throughout hospital course she 
remained hemodynamically stable and normotensive.

# HTN: initially held amlodipine 2.5 qD until rule-out of 
bleeding occurred; was resumed prior to discharge.

Transitional Issues:
- Patient has a history of severe iron deficiency with Fe 16 and 
ferritin 2.8; we have resumed her on oral iron ferrous sulfate 
325 mg daily; please continue to trend hemoglobin with 
outpatient iron infusions as needed. We have also written for a 
bowel regimen in case she becomes constipated.
- No other changes to her medications have been made.
- The final read for her pelvic ultrasound was pending by the 
time of her discharge. However, given no ongoing bleeding and 
stable H/H x3, it was not felt that management would change 
based on reading given prior history of heavy menses already 
known to patient and followed in the outpatient setting. As 
above, the final read (which resulted after discharge) 
recommends sonohysterogram and/or gynecology referral for 
further work-up of the ultrasound findings. Please review OMR 
notes regarding patient and PCP notification of this finding.
- Dispo weight: 62.8 kg
- CODE STATUS: Full (confirmed). 
- CONTACT: ___ (husband) ___ ___ (father) 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Necon 0.5/35 (28) (norethindrone-ethin estradiol) 0.5-35 
mg-mcg oral DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID constipation  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
2.  Senna 8.6 mg PO BID:PRN constipation  
RX *sennosides [senna] 8.6 mg 1 tablet by mouth BID PRN Disp 
#*30 Tablet Refills:*0 
3.  amLODIPine 2.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Iron deficiency anemia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
We have cared for you in the hospital for your anemia.  It 
appears you are iron deficient and we have treated you for that. 
 We are also setting up follow-up with your PCP who can 
facilitate you getting infusions as needed in the outpatient 
setting.  Please reach out to your doctor or return to be 
evaluated if you develop any chest pain, severe shortness of 
breath, blood in your stools, severe fatigue or any other 
concerning symptoms.  We are discharging you on oral iron and it 
is important that you take it.  We are also writing you for 
medications to help with constipation if that develops in 
response to the iron.
We have greatly appreciated taking part in your care.
Best wishes,
___ Care Team
 
Followup Instructions:
___